US05486466
A solution of 5.10 g of tert-butyl (S)-3-(4-nitrobenzyloxycarbonyloxy)-butyrate in 20 ml of trifluoroacetic acid was stirred at 0° C. for 90 minutes. The solvent was evaporated in vacuo, and the residue was crystallized from methylene chloride/hexane to yield 3.28 g of (S)-3-(4-nitrobenzyloxycarbonyloxy)-butyric acid as white crystals of m.p. 78°-81° C.

reactant | tert-butyl (S)-3-(4-nitrobenzyloxycarbonyloxy)-butyrate | 5.10 g | [N+](=O)([O-])C1=CC=C(COC(=O)O[C@H](CC(=O)OC(C)(C)C)C)C=C1 | C16H21NO7
solvent | trifluoroacetic acid | 20 ml | FC(C(=O)O)(F)F | C2HF3O2
product | (S)-3-(4-nitrobenzyloxycarbonyloxy)-butyric acid | 3.28 g | [N+](=O)([O-])C1=CC=C(COC(=O)O[C@H](CC(=O)O)C)C=C1 | C12H13NO7
